US04442126
(e) 2-Propylamino-5-amino-6-hydroxy-1,2,3,4-tetrahydronaphthalene hydrobromide
50 ml of 48% hydrobromic acid containing 1.5 g of 2-propylamino-5-amino-6-methoxy-1,2,3,4-tetrahydronaphthalene are heated under reflux for 10 hours. 1.8 g of the dihydrobromide are then collected by concentrating the reaction medium. By following the procedure of Example 2(c), 1.19 g of the monohydrobromide are collected, melting at 280° C.

reactant | 2-propylamino-5-amino-6-methoxy-1,2,3,4-tetrahydronaphthalene | C(CC)NC1CC2=CC=C(C(=C2CC1)N)OC | C14H22N2O
reactant | hydrobromic acid | 50 ml, 1.5 g | Br | BrH
product | 2-Propylamino-5-amino-6-hydroxy-1,2,3,4-tetrahydronaphthalene hydrobromide | Br.C(CC)NC1CC2=CC=C(C(=C2CC1)N)O | InChI=1S/C13H20N2O.BrH/c1-2-7-15-10-4-5-11-9(8-10)3-6-12(16)13(11)14;/h3,6,10,15-16H,2,4-5,7-8,14H2,1H3;1H
